US04048334
c. 1,1-Di-n-propyl-2-propyn-1-ylamine
To a suspension of sodium amide in liquid ammonia, prepared from 6.9 g of sodium and 250 ml of liquid ammonia, were added 17 g of 1,1-di-n-propyl-1-chloro-2-propyne in 50 ml of anhydrous ethyl ether. The operation of adding the chlorinated derivative lasted one hour. Stirring of the mixture was maintained for 2 hours and then 300 ml of anhydrous ethyl ether were added.

reactant | sodium amide | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | sodium | 6.9 g | [Na] | Na
reactant | 1,1-di-n-propyl-1-chloro-2-propyne | 17 g | C(CC)C(C#C)(Cl)CCC | C9H15Cl
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1,1-Di-n-propyl-2-propyn-1-ylamine | C(CC)C(C#C)(CCC)N | C9H17N
